US06967197B2
To a solution of 7-(5-bromo-2-thienyl)perhydro-1,4-thiazepine (60.5 g) in chloroform (800 ml) was added a solution of di-tert-butyl dicarbonate (45.1 g) under ice-cooling. After being stirred for 30 minutes, the reaction mixture was concentrated in vacuo. The resulting solid was collected and washed with hexane to give 7-(5-bromo-2-thienyl)-4-tert-butoxycarbonylperhydro-1,4-thiazepine (73.8 g) as a solid.

reactant | 7-(5-bromo-2-thienyl)perhydro-1,4-thiazepine | 60.5 g | BrC1=CC=C(S1)C1CCNCCS1 | C9H12BrNS2
reactant | di-tert-butyl dicarbonate | 45.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-(5-bromo-2-thienyl)-4-tert-butoxycarbonylperhydro-1,4-thiazepine | 73.8 g | BrC1=CC=C(S1)C1CCN(CCS1)C(=O)OC(C)(C)C | C14H20BrNO2S2
